US07989454B2
4-[3-[6-(3-Benzylcarbamoyl-5-iodo-phenoxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester
To a solution of N-benzyl-3-hydroxy-5-iodo-benzamide (4.1 g) in a mixture of acetone and DMF (2:1, 100 mL) were added potassium carbonate (16.0 g) and 4-[3-(6-bromo-hexyl)-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (6.0 g). The resulting mixture was stirred at 75° C. for 2 days. Then the insoluble material was filtered out and the filtrate was diluted with ethyl acetate and washed with water and brine. The organic extract was dried over anhydrous sodium sulfate, concentrated and purified on a silica gel column using ethyl acetate and hexanes to yield 8.7 g of yellow oil (100% yield).

reactant | N-benzyl-3-hydroxy-5-iodo-benzamide | 4.1 g | C(C1=CC=CC=C1)NC(C1=CC(=CC(=C1)I)O)=O | C14H12INO2
reactant | potassium carbonate | 16.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[3-(6-bromo-hexyl)-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 6.0 g | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCBr)CCC(=O)OCC)=O | C23H35BrO5
solvent | acetone | CC(=O)C | C3H6O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-[3-[6-(3-Benzylcarbamoyl-5-iodo-phenoxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 8.7 g, 100% yield | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)I)C(NCC1=CC=CC=C1)=O)CCC(=O)OCC)=O | C37H46INO7
